Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Right wrist and hand pain s/p right wrist fusion.
 
Major Surgical or Invasive Procedure:
Right carpal tunnel release.

 
History of Present Illness:
Pt is a ___ y.o. female with a history of rheumatoid arthritis 
and progressive right wrist pain and dysfunction. She has 
already undergone tendon and fascial arthroplasty for wrist 
pain, which has no progressed. She has been seen by multiple 
hand specialists and now comes to Dr. ___ for a wrist 
fusion for definitive treatment.
 
Past Medical History:
Rheumatoid arthritis, anxiety
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
General: NAD, AAOx3
HEENT: NCAT
CV: RRR, S1S2
Lungs: CTAB
Abd: Soft, NTND, no masses
Muscoskeletal (RUE):
Pt has a dorsal resting splint in place. Upon removal, her 
surgical scar is intact, but with marked edema and ecchymossis. 
+blistering of skin around wound and over ___ MCPJ. Palm is 
ecchymottic and markedly edematous. She has normal sensation in 
all five fingers. Pt has pain with passive extension of her 
fingers. Palpable radial/ulnar pulse. Marked swelling of forearm 
jus proximal to her splint, and distal to the elbow.
 
Pertinent Results:
None.
 
Brief Hospital Course:
Pt is a ___ y.o. woman who comes back to ___ the evening of her 
elective surgery for a right wrist fusion by Dr. ___. 
She p/w pain, refractory to managment with her PO pain regiment. 
The patient was admitted to ___ and started on a Dilaudid PCA 
for pain control.

On POD 1, it was noted that the pt was having worsening of her 
swelling in her fingers and forearm, at which point her splint 
was removed. Large skin blisters were noted on both the dorsal 
and volar surfaces of the hand, wrist, and forearm. The patient 
was closely monitored and her pain was controlled with the PCA 
and with PO pain meds.

On POD 2, the patient began having parasthesias in her hand and 
fingers and she was taken back to the OR for an acute carpal 
tunnel syndrome. She tolerated the procedure well and was 
readmitted to the floor for post-operative management.

By POD 4, the patient's pain was well controlled and her 
paresthesias were resolved. She was discharged home on PO pain 
medication and with a volar orthoplast splint.
 
Medications on Admission:
Lorezapam, Dilaudid
 
Discharge Medications:
1. Keflex ___ mg Capsule Sig: One (1) Capsule PO every six (6) 
hours for 7 days.
Disp:*28 Capsule(s)* Refills:*0*
2. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for PAIN.
Disp:*75 Tablet(s)* Refills:*0*
3. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.  
4. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a ___.  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a ___.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right acute carpal tunnel syndrome s/p right wrist fusion.

 
Discharge Condition:
Good.

 
Discharge Instructions:
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications.  * If you have shaking chills, or a fever greater 
than 101.5 (F) degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you.

Other:
*Keep your splints on and hand elevated as much as possible
* Please resume all regular home medications and take any new 
meds as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 
 
Followup Instructions:
___